US03932444
1-(4-IMIDAZOLYLSULFONYL)-2-n-PROPYLIMIDAZOLE
A round bottom flask equipped with a magnetic stirrer, reflux condenser and nitrogen inlet was charged with 10.85 g of imidazole-4-sulfonylchloride and 180 ml of THF. This solution was treated with a solution of 15.4 g 2-n-propylimidazole in 100 ml of THF. The reaction mixture was stirred at room temperature overnight and then refluxed 48 hours. The clear solution was concentrated to an oil and dissolved in water. The opaque solution deposited crystals on standing which were filtered, washed and dried. Recrystallization from ethyl acetate gave 10.61 g of white crystals of 1-(4-imidazolylsulfonyl)-2-n-propylimidazole with mp 163°-4°, λmaxnujol 3.18 (NH), 7.32 (SO2N) and 8.52 μ (SO2N). NMR (DMSO, d6): 660-730 Hz, m, 1H; 496 Hz, d, J = 1.5 Hz, 1H; 477 Hz, d, J = 1.5 Hz, 1H; 447 Hz, d, J = 2 Hz, 1H; 415 Hz, d, J = 2 Hz, 1H; 174 Hz, t, J = 7 Hz, 2H; 82-118 Hz, sextet, J = 7 Hz, 2H; 51 Hz, t, J = 7 Hz, 3H.

reactant | imidazole-4-sulfonylchloride | 10.85 g | N1C=NC(=C1)S(=O)(=O)Cl | C3H3ClN2O2S
reactant | 2-n-propylimidazole | 15.4 g | C(CC)C=1NC=CN1 | C6H10N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 180 ml | C1CCOC1 | C4H8O
product | 1-(4-IMIDAZOLYLSULFONYL)-2-n-PROPYLIMIDAZOLE | 10.61 g | N1C=NC(=C1)S(=O)(=O)N1C(=NC=C1)CCC | C9H12N4O2S
